US04898607
A mixture of 30.0 g of 1-(2,2-dimethylindan-1-yl)-5-imidazolecarboxylic acid methyl ester, 150 ml of water and 17 g of sulfuric acid is heated to +80° C. Within a period of 1.5 hours a solution of 114 g of ammonium peroxodisulfate is added dropwise thereto. When the reaction is complete, the solution is cooled to +7° C. and adjusted to pH 3 by the addition of 30% sodium hydroxide solution. The solution is extracted twice using 200 ml of methylene chloride each time, and the organic phase is dried over sodium sulfate and concentrated to dryness by evaporation. The residue is taken up in a small amount of methylene chloride, and ether is added. The resulting suspension is filtered, the filtrate is concentrated by evaporation and the residue is crystallised from an ether/hexane mixture. 19 g of 1-(2,2-dimethyl-3-oxoindan-1-yl)-5-imidazolecarboxylic acid methyl ester having a melting point of 104°-108° C. are obtained.

reactant | 1-(2,2-dimethylindan-1-yl)-5-imidazolecarboxylic acid methyl ester | 30.0 g | COC(=O)C1=CN=CN1C1C(CC2=CC=CC=C12)(C)C | C16H18N2O2
reactant | sulfuric acid | 17 g | S(O)(O)(=O)=O | H2O4S
reactant | ammonium peroxodisulfate | 114 g | [NH4+].[NH4+].[O-]S(=O)(=O)OOS(=O)(=O)[O-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
product | 1-(2,2-dimethyl-3-oxoindan-1-yl)-5-imidazolecarboxylic acid methyl ester | 19 g | COC(=O)C1=CN=CN1C1C(C(C2=CC=CC=C12)=O)(C)C | C16H16N2O3
